US09034866B2
Potassium Cyanide (0.8 eq) and Copper (I) Iodide (0.2 eq) were added to solution of 10-bromo-9-fluoro-3-iodo-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide (0.05 g) in DMF (3 ml/mmol). The reaction was heated overnight at 150° C., filtered and purified by reverse phase hplc to give 10-bromo-3-cyano-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide. This intermediate was reacted with 2-Methyl-3-butyne-ol similar to as described in Procedure E to afford 12 mg of 3-cyano-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide following reverse phase hplc purification. MS (Q1) 355 (M)+. 1H NMR (400 MHz, DMSO) δ 8.69-8.56 (m, 1H), 8.04 (s, 1H), 7.64 (s, 1H), 7.14-7.00 (m, 1H), 5.51 (d, J=10.2 Hz, 1H), 4.63-4.57 (m, 2H), 4.56-4.49 (m, 2H), 1.49 (s, 6H).

reactant | Potassium Cyanide | 0.8 eq | [C-]#N.[K+]
reactant | 10-bromo-9-fluoro-3-iodo-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 0.05 g | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)I)C1)F | C12H8BrFIN3O2
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | Copper (I) Iodide | 0.2 eq | [Cu]I
product | 10-bromo-3-cyano-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C#N)C1)F | C13H8BrFN4O2
